US05688995
3.65 g (0.15 mol) of magnesium turnings are placed in a 100 ml sulfonating flask fitted with stirrer, condenser, dry pipe, dropping funnel and internal thermometer under inert gas (dry nitrogen), and etching of the turnings is initiated with a few crystals of iodine. 150 ml of anhydrous tetrahydrofuran are added, and a solution of 42.8 g (0.15 mol) of 4-(2-ethylhexyloxy)bromobenzene in 30 ml of tetrahydrofuran is added dropwise over the course of 45 minutes (room temperature). After gentle heating on the waterbath (40 C.) the Grignard reaction starts up (clouding, exothermic). The mixture is stirred at 40 C. for one hour and then under reflux (66 C.) until virtually all of the magnesium has dissolved (about 30 minutes). After cooling to room temperature, the Grignard solution is added dropwise at 0-C. over the course of 60 minutes to a solution of 9.2 g (0.05 mol) of cyanuric chloride in 40 ml of tetrahydrofuran (350 ml sulfonating flask, stirrer, condenser, dry pipe, dropping funnel, internal thermometer, inert gas). The mixture is stirred under reflux (66 C.) overnight and then evaporated to dryness. The residue is stirred with 100 ml of ice-cold 2N hydrochloric acid and then subjected to extraction with 200 ml of toluene. The organic phase is shaken twice with 10% brine, dried over sodium sulfate and concentrated by evaporation. The crude product (40.3 g, red oil) is still heavily contaminated (thin-layer chromatogram). To purify it, it is dissolved in 80 ml of toluene/hexane (1/1) and the solution is chromatographed over silica gel (5 cm×45 cm). 18.2 g (69.5%) of 2-chloro-4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazine are isolated as a yellow resin.

reactant | magnesium | 0.15 mol, 3.65 g | [Mg] | Mg
reactant | 4-(2-ethylhexyloxy)bromobenzene | 0.15 mol, 42.8 g | C(C)C(COC1=CC=C(C=C1)Br)CCCC | C14H21BrO
reactant | cyanuric chloride | 0.05 mol, 9.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-chloro-4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazine | 18.2 g, 69.5% | ClC1=NC(=NC(=N1)C1=CC=C(C=C1)OCC(CCCC)CC)C1=CC=C(C=C1)OCC(CCCC)CC | C31H42ClN3O2
